US05463077
A solution of 8.56 g of (3aS,4S,7aS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-tert-butoxycarbonyl-perhydroisoindol-4-ol in 53 cm3 of acetic acid and 30 cm3 of 12N hydrochloric acid is heated at 95° C. for 45 minutes, and then cooled to room temperature and concentrated to dryness under reduced pressure (2.7 kPa). The residue is recrystallised from 20 cm3 of acetonitrile. 5.2 g of (3aS,7aR)-4,4-diphenyl-7-(2-methoxyphenyl)-2,3,3a, 4,5,7a-hexahydroisoindole hydrochloride are obtained in the form of white crystals which melt at a temperature above 300° C., and the product is used in the crude state in the subsequent syntheses.

reactant | (3aS,4S,7aS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-tert-butoxycarbonyl-perhydroisoindol-4-ol | 8.56 g | C1(=CC=CC=C1)C1(CC[C@@]([C@@H]2CN(C[C@H]12)C(=O)OC(C)(C)C)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C32H37NO4
reactant | hydrochloric acid | 12N, 30 cm3 | Cl | ClH
solvent | acetic acid | 53 cm3 | C(C)(=O)O | C2H4O2
product | (3aS,7aR)-4,4-diphenyl-7-(2-methoxyphenyl)-2,3,3a, 4,5,7a-hexahydroisoindole hydrochloride | 5.2 g | Cl.C1(=CC=CC=C1)C1([C@H]2CNC[C@H]2C(=CC1)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | InChI=1S/C27H27NO.ClH/c1-29-26-15-9-8-14-23(26)22-16-17-27(20-10-4-2-5-11-20,21-12-6-3-7-13-21)25-19-28-18-24(22)25;/h2-16,24-25,28H,17-19H2,1H3;1H/t24-,25-;/m0./s1
